US05574168
5-Methoxycarbonyl-2-furyl phenyl ketone (V-1)
Anhydrous ferric chloride 10.42 g, 0.0026 mole) and benzoyl chloride II-1(29.65 g, were dissolved in CCl4 (40 ml and added dropwise with methyl furan-2-carboxylate I-1 (24 g. 0.19 mole). The reaction mixture was then heated under refluxing for 16 hrs, and after cooling was added with water(120 ml). The mixture was extracted with CCl4 , then the CCl4 layer was washed with water, 5% sodium bicarbonate solution, and then with water, till neutral, then dried over anhydrous Magnesium sulfate and filtered. The solvent of the filtrate was evaporated under reduced pressure, the residue was recrystallized from isopropanol, and then from methanol to give compound V-1. Yield 18.75 g(42.9%).

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methyl furan-2-carboxylate | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | water | 120 ml | O | H2O
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Methoxycarbonyl-2-furyl phenyl ketone | C1(=CC=CC=C1)C(=O)C=1OC(=CC1)C(=O)OC | C13H10O4
